US06258953B1
N-(3,4-dichlorophenyl)-acrylamide
A mixture of 3,4-dichloroaniline (3.6 g, 22.3 mmol) and 4.2 mL (30.2 mmol) of triethylamine in 20 mL of anhydrous methylene chloride was cooled to 0° C. under a nitrogen atmosphere and treated with acryloyl chloride (2.1 g, 23.2 mmol). The ice bath was removed and the mixture was stirred at room temperature for 1 hour after which time it was diluted with 120 mL of methylene chloride and washed with water and saturated aqueous sodium chloride (NaCl). After drying with calcium sulfate (CaSO4), the solvent was removed in vacuo to give a yellow solid, 4.84 g.

reactant | 3,4-dichloroaniline | 22.3 mmol, 3.6 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | triethylamine | 30.2 mmol, 4.2 mL | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 23.2 mmol, 2.1 g | C(C=C)(=O)Cl | C3H3ClO
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(3,4-dichlorophenyl)-acrylamide | ClC=1C=C(C=CC1Cl)NC(C=C)=O | C9H7Cl2NO
